US04224071
Preparation of 2,3-Dihydro-2,2-Dimethyl-6-(2-Nitronaphthylazo)Perimidine
In the manner described in Example 8, substituting 9.5 grams of 1-amino-2-nitronaphthalene for the 1-amino-4-nitronaphthalene, the desired compound is obtained.

reactant | 1-amino-2-nitronaphthalene | 9.5 grams | NC1=C(C=CC2=CC=CC=C12)[N+](=O)[O-] | C10H8N2O2
reactant | 1-amino-4-nitronaphthalene | NC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C10H8N2O2
product | 2,3-Dihydro-2,2-Dimethyl-6-(2-Nitronaphthylazo)Perimidine | CC1(NC=2C=CC=C3C(=CC=C(N1)C23)N=NC2=C(C=CC3=CC=CC=C23)[N+](=O)[O-])C | C23H19N5O2
